*******************************************************************************
*****************************************************************
* NXP PSMN4R0_40YS
*
* Polarity N-Channel
* Ratings 40V/4.00E-03OHMS/0.17A
*
* Date Created Fri Mar  5 11:51:00 2010
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN4R0_40YS DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 5.43147180559945e-10
RLG GATE 1 1.36507660078025
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.00035

RDS 7 4 400000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.0016227359451379 TC=0.0044663974035083,2.59023733087378e-05
RBD 9 4 0.000545746349027274 TC=0.0044663974035083,2.59023733087378e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 2000000000
CGS 2 6 2.075e-09
RG 1 2 0.617840585732129

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -10	1702
+ -8	1697
+ -6	1673
+ -4	1686
+ -2	1321
+ 0	854.5
+ 0.1	738
+ 0.2	696
+ 0.5	600
+ 1	512
+ 2	433
+ 5	346
+ 10	294
+ 20	254
+ 25	242
+ 30	232



.MODEL MINT NMOS(Vto=3.7474718902758 Kp=1.4201e+02 Nfs=820000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Lambda=0 Is=1e-24
+ Js=0 Pb=0.8 Pbsw=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0 Ucrit=1e4 Diomod=1 Vfb=0 Leta=0 Weta=0
+ U0=600 Temp=0 Vdd=0 Xpart=0 Vmax=250)

.MODEL DBD D(Bv=44.80 Ibv=2.50E-04 Rs=1E-6 Is=1.09557322969316e-12
+ N=1 M=0.64 VJ=0.77 Fc=0.5 Cjo=1.917e-09 Tt=2.1e-08)

.ENDS

*******************************************************************************
